US07425560B2
3-Isobutyl-2,6-dithioxanthine
3-Isobutyl-2-thioxanthine (0.20 g, 0.89 mmol) and Lawesson's reagent (1.1 g, 2.7 mmol) were suspended in toluene (8 mL). This mixture was heated at 120° C. for 17 h. The reaction mixture was cooled and the solvent removed under reduced pressure. 10% Sodium hydroxide (20 mL) was added and the mixture stirred for 10 minutes. This solution was filtered to remove insoluble solids and the solid washed with 10% sodium hydroxide solution. The basic filtrate was treated with dilute acetic acid until pH 4 was reached. The resulting precipitate was collected by filtration and washed with water. Drying of the substance afforded the title compound (0.16 g, 73%).

reactant | 3-Isobutyl-2-thioxanthine | 0.89 mmol, 0.20 g | C(C(C)C)N1C(NC(C=2NC=NC12)=O)=S | C9H12N4OS
reactant | Lawesson's reagent | 2.7 mmol, 1.1 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Isobutyl-2,6-dithioxanthine | 0.16 g, 73% | C(C(C)C)N1C(NC(C=2NC=NC12)=S)=S | C9H12N4S2
